US04426530
3.48 g (22.0 mmols) of 1-methyl-4-cyanomethyl-1,2,4-triazolium chloride are added to 6.02 g (20.0 mmols) of the Na salt of 2-hydroxy-4-(4-methyl-5-phenyl-2H-1,2,3-triazol-2-yl)-benzaldehyde and 4.80 g (80.0 mmols) of glacial acetic acid in 20 ml of anhydrous dimethylformamide, under an N2 atmosphere, and the mixture is stirred for 24 hours at room temperature. The precipitate is filtered off under suction, washed with dimethylformamide and dried: 3.60 g (43%) of a pale yellow powder. Recrystallisation from water yields 2.90 g (35%) of 1-methyl-4-[7-(4-methyl-5-phenyl-2H-1,2,3-triazol-2-yl)-coumarin-3-yl]-1,2,4-triazolium chloride in the form of small pale yellow crystals of melting point 249°-252° C. (decomposition).

reactant | 1-methyl-4-cyanomethyl-1,2,4-triazolium chloride | 22.0 mmols, 3.48 g | [Cl-].C[N+]=1N=CN(C1)CC#N
reactant | 2-hydroxy-4-(4-methyl-5-phenyl-2H-1,2,3-triazol-2-yl)-benzaldehyde | OC1=C(C=O)C=CC(=C1)N1N=C(C(=N1)C)C1=CC=CC=C1 | C16H13N3O2
reactant | acetic acid | 80.0 mmols, 4.80 g | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-methyl-4-[7-(4-methyl-5-phenyl-2H-1,2,3-triazol-2-yl)-coumarin-3-yl]-1,2,4-triazolium chloride | 2.90 g, 35% | [Cl-].C[N+]=1N=CN(C1)C=1C(OC2=CC(=CC=C2C1)N1N=C(C(=N1)C)C1=CC=CC=C1)=O | InChI=1S/C21H17N6O2.ClH/c1-14-20(15-6-4-3-5-7-15)24-27(23-14)17-9-8-16-10-18(21(28)29-19(16)11-17)26-12-22-25(2)13-26;/h3-13H,1-2H3;1H/q+1;/p-1
